US06310070B1
Preparation of 4-benzylideneamino-5-imidazole carboxamide (an intermediate material)
16.3 g (100 mmol) of 4-amino-5-imidazolecarboxamide hydrochloride was suspended in 200 ml ethanol, and 27.8 ml (200 mmol) of triethylamine was added to the suspension and dissolved. To the solution, 10.2 ml (100 mmol) of benzaldehyde was added and the mixture was heated for 8 hours while refluxing. After the addition of 400 ml of distilled water, the reaction mixture was stirred for one hour at 0° C. A solid precipitate produced was collected by filtration, washed with distilled water, then with ethanol, and dried under reduced pressure to obtain 20.8 g of the title compound (yield 97%).

reactant | 4-amino-5-imidazolecarboxamide hydrochloride | 100 mmol, 16.3 g | Cl.NC=1N=CNC1C(=O)N
reactant | triethylamine | 200 mmol, 27.8 ml | C(C)N(CC)CC | C6H15N
reactant | benzaldehyde | 100 mmol, 10.2 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | 400 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-benzylideneamino-5-imidazole carboxamide | 20.8 g, yield 97% | C(C1=CC=CC=C1)=NC=1N=CNC1C(=O)N | C11H10N4O
